US09376454B2
Step 2. Synthesis of (R)-2-Hydroxy-3-(2-1,2,3,4-tetrahydro-isoquinolin-7-yl-acetylamino)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 7-{[2-(3-tert-Butoxycarbonyl-2-methoxy-phenyl)-1-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethylcarbamoyl]-methyl}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester and HCl following the procedure described in Step 6 of Example 48. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 381 (MH)+.

reactant | 7-{[2-(3-tert-Butoxycarbonyl-2-methoxy-phenyl)-1-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethylcarbamoyl]-methyl}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)CC(NC(CC1=C(C(=CC=C1)C(=O)OC(C)(C)C)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C)=O | C40H55BN2O8
reactant | HCl | Cl | ClH
product | (R)-2-Hydroxy-3-(2-1,2,3,4-tetrahydro-isoquinolin-7-yl-acetylamino)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(CC1=CC=C3CCNCC3=C1)=O)C=CC=C2C(=O)O | C20H21BN2O5
